US08420695B2
Step 1: 2-(4-bromobenzyl)-2H-1,2,3-triazole
1-bromo-4-(bromomethyl)benzene (300 mg, 1.200 mmol), 1H-1,2,3-triazole (84 μl, 1.440 mmol), and potassium carbonate (332 mg, 2.401 mmol) were taken up in dimethylformamide (1500 μl) and heated to 50° C. overnight. The reaction was quenched with water and extracted using ethyl acetate. The organic layers were combined, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. Purification was performed via silica gel chromatography (50-100% ethyl acetate in hexanes) to yield the title compound.

reactant | 1-bromo-4-(bromomethyl)benzene | 1.200 mmol, 300 mg | BrC1=CC=C(C=C1)CBr | C7H6Br2
reactant | 1H-1,2,3-triazole | 1.440 mmol, 84 μl | N1N=NC=C1 | C2H3N3
reactant | potassium carbonate | 2.401 mmol, 332 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1500 μl | CN(C=O)C | C3H7NO
product | 2-(4-bromobenzyl)-2H-1,2,3-triazole | BrC1=CC=C(CN2N=CC=N2)C=C1 | C9H8BrN3
